US05674909
Preparation of 6-(2-aminoethyl)-1,3-benzothiazol-2(3H)-one hydrobromide (Intermediate 21)
The resultant 6-(2-aminoethyl)-2-methoxy-1,3-benzothiazole (1.3 g) was dissolved in 48% HBr (9 ml) and the reaction mixture was stirred under reflux for 1 hour.

reactant | 6-(2-aminoethyl)-2-methoxy-1,3-benzothiazole | 1.3 g | NCCC1=CC2=C(N=C(S2)OC)C=C1 | C10H12N2OS
reactant | HBr | 9 ml | Br | BrH
product | 6-(2-aminoethyl)-1,3-benzothiazol-2(3H)-one hydrobromide | Br.NCCC1=CC2=C(NC(S2)=O)C=C1 | InChI=1S/C9H10N2OS.BrH/c10-4-3-6-1-2-7-8(5-6)13-9(12)11-7;/h1-2,5H,3-4,10H2,(H,11,12);1H
